US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (10 g, 0.043 mol), 4-methoxybenzylamine (13.0 g, 0.095 mol) and DMSO (75 ml) was heated at reflux overnight and then was allowed to stand for about 2 days. The reaction mixture was poured into ice-water and the resulting gum was treated with ethyl acetate. The product which oiled out of the ethyl acetate was separated and then was dissolved in CH2Cl2. The CH2Cl2 layer was washed with water, then brine and then was dried over MgSO4 and evaporated under reduced pressure. The residue was dissolved in CH2Cl2 and purified by column chromatography on silica gel eluting with CH2Cl2 to afford the product as the free base. The free base was dissolved in methanol and then was treated with methanolic HCl. A precipitate formed which was collected by filtration, washed with ether and dried in vacuo at 50° C. to afford 12.4 g of 1-ethyl-N-(4-methoxy phenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine.HCl.1/2 H2O, m.p. 179°-180° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.043 mol, 10 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | 4-methoxybenzylamine | 0.095 mol, 13.0 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | DMSO | 75 ml | CS(=O)C | C2H6OS
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-N-(4-methoxy phenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 12.4 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC=C(C=C2)OC | C20H20N4O
